US06833378B2
[2-(4-Chloro-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-(1-ethyl-propyl)-amine
To a solution of [2-(4-Chloro-2,6-dimethyl-phenoxy)-3-chloromethyl-6-methyl-pyridin-4-yl]-(1-ethyl-propyl)-amine (75 mg, 0.196 mmol) in dry THF was added 1.0M BH3 in THF (0.59 ml, 0.59 mmol) and stirred for 2 hr. The mixture was quenched with dilute HCl and stirred for 5 min. The reaction mixture was neutralized with 2N NaOH, water and extracted with ethyl acetate. The organic layer was separated, dried and concentrated to dryness. The residue was purified through silca gel column chromatography to give the title compound as a colorless oil.

reactant | [2-(4-Chloro-2,6-dimethyl-phenoxy)-3-chloromethyl-6-methyl-pyridin-4-yl]-(1-ethyl-propyl)-amine | 0.196 mmol, 75 mg | ClC1=CC(=C(OC2=NC(=CC(=C2CCl)NC(CC)CC)C)C(=C1)C)C | C20H26Cl2N2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 0.59 mmol, 0.59 ml | C1CCOC1 | C4H8O
product | [2-(4-Chloro-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-(1-ethyl-propyl)-amine | ClC1=CC(=C(OC2=NC(=CC(=C2C)NC(CC)CC)C)C(=C1)C)C | C20H27ClN2O
